US08975443B2
2,2,8,8-Tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphocan-4-one
To a 250-mL round bottom flask equipped with a magnetic stir bar was added 2,2,7,7-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphepan-4-one (1.24 g, 2.67 mmol, 1 equiv). The flask was sealed with a septum and purged with nitrogen gas for 10 minutes The solid was dissolved with anhydrous, degassed dichloromethane (38 mL), and the solution was cooled to −78° C. Boron trifluoride diethyl etherate (507 μL, 4.00 mmol, 1.5 equiv) was added to the flask over the course of 3 minutes After stirring the solution for 5 minutes, (trimethylsilyl)diazomethane (2.0 mL, 4.00 mmol, 1.5 equiv, 2 M in hexane) was added slowly over 3 minutes The bright yellow solution was stirred at −78° C. for an hour, then diluted with 1 M aqueous hydrochloric acid (50 mL). The slurry was warmed to room temperature overnight. The solution was charged into a separatory funnel and the phases were partitioned. The organic layer was collected, and the aqueous layer was washed with dichloromethane (2×20 mL). The combined organic fractions were then washed with aqueous saturated sodium bicarbonate (30 mL), dried over sodium sulfate, filtered, and concentrated via a rotary evaporator. Purification by silica gel column chromatography on an Isco CombiFlash system (120-g column; gradient: 1.5 column volumes heptane, ramp up to 90:10 heptane:ethyl acetate over 8.5 column volumes, hold at 90:10 for 4 column volumes) afforded the title compound as a white solid (905 mg, >99 area % by HPLC, 71% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.87-7.80 (m, 1H), 7.37-7.27 (m, 2H), 7.22 (ddd, J=4.2, 3.3, 1.9 Hz, 1H), 6.97 (dd, J=7.3, 1.8 Hz, 2H), 3.09-2.97 (m, 1H), 2.92 (dq, J=13.7, 6.9 Hz, 1H), 2.75-2.54 (m, 2H), 2.46-2.30 (m, 2H), 2.24 (dq, J=15.0, 5.7 Hz, 1H), 1.98-1.77 (m, 2H), 1.65 (tdd, J=13.5, 9.4, 3.9 Hz, 1H), 1.55-1.41 (m, 4H), 1.30 (d, J=6.9 Hz, 6H), 1.27 (t, J=4.5 Hz, 6H), 1.17 (d, J=6.8 Hz, 3H), 1.01 (d, J=6.6 Hz, 3H), 0.95 (d, J=6.7 Hz, 3H), 0.90 (d, J=12.2 Hz, 3H), 0.74 (d, J=16.4 Hz, 3H). 13C NMR (100 MHz, CDCl3) δ ppm 213.9, 148.5, 148.1, 147.4, 145.9, 145.6, 136.9 (d, J=2 Hz), 136.1 (d, J=5 Hz), 134.9, 134.6, 132.2 (d, J=7 Hz), 127.6, 124.9, 120.0 (d, J=14 Hz), 59.7 (d, J=27 Hz), 42.9 (d, J=12 Hz), 42.6, 36.9 (d, J=31 Hz), 36.0 (d, J=28 Hz), 34.3, 31.8 (d, J=14 Hz), 31.2 (d, J=4 Hz), 31.0, 30.3 (d, J=26 Hz), 29.0 (d, J=4 Hz), 27.1, 26.4-26.0 (m), 24.4 (d, J=7 Hz), 23.2-22.8 (m), 21.3 (d, J=7 Hz). 31P NMR (CDCl3, 202 MHz) δ ppm 10.5 (s). HRMS (TOF-ESI+) calcd for [M, C32H47OP]+ 478.3365, found 478.3369.

reactant | 2,2,7,7-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphepan-4-one | 2.67 mmol, 1.24 g, 1 equiv | CC1(P(C(CCC(C1)=O)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C31H45OP
reactant | Boron trifluoride diethyl etherate | 4.00 mmol, 507 μL, 1.5 equiv | B(F)(F)F.CCOCC
reactant | (trimethylsilyl)diazomethane | 4.00 mmol, 2 M, 2.0 mL, 1.5 equiv | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | hydrochloric acid | 1 M, 50 mL | Cl | ClH
product | 2,2,8,8-Tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphocan-4-one | 905 mg, 71% yield | CC1(P(C(CCCC(C1)=O)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C32H47OP
